* /home/ganapathisubramanian28/downloads/ganapathijohnsoncounter/johnsoncounter/johnsoncounter.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m2 net-_m1-pad1_ net-_m1-pad2_ net-_m2-pad3_ net-_m2-pad3_ CMOSP  L=100u W=100u M=1
m4 net-_m3-pad1_ net-_m1-pad1_ net-_m2-pad3_ net-_m2-pad3_ CMOSP  L=100u W=100u M=1
m6 net-_m1-pad2_ net-_m3-pad1_ net-_m2-pad3_ net-_m2-pad3_ CMOSP  L=100u W=100u M=1
m1 net-_m1-pad1_ net-_m1-pad2_ gnd gnd CMOSN  L=100u W=100u M=1
m3 net-_m3-pad1_ net-_m1-pad1_ gnd gnd CMOSN  L=100u W=100u M=1
m5 net-_m1-pad2_ net-_m3-pad1_ gnd gnd CMOSN  L=100u W=100u M=1
* u1  clk plot_v1
v1 net-_m2-pad3_ gnd  dc 5
* u3  clk net-_u3-pad2_ net-_u2-pad1_ net-_u2-pad2_ adc_bridge_2
* u4  net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ o3 o2 o1 o0 dac_bridge_4
* u5  o3 plot_v1
* u6  o2 plot_v1
* u7  o1 plot_v1
* u8  o0 plot_v1
v2  net-_u3-pad2_ gnd pulse(0 5 0.1m 0.1m 0.1m 0.000001 0.001)
r1  net-_m1-pad2_ clk 10k
r2  clk gnd 10k
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ johnson
a1 [clk net-_u3-pad2_ ] [net-_u2-pad1_ net-_u2-pad2_ ] u3
a2 [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] [o3 o2 o1 o0 ] u4
a3 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] u2
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             johnson, NgSpice Name: johnson
.model u2 johnson(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 1e-06 1e-03 0e-06

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk) v(o3)+10 v(o2)+20 v(o1)+30 v(o0)+40
.endc
.end
